US08003649B2
Reductive amination of 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine with 2,2-difluoro-1,3-benzodioxole-4-carbaldehyde was carried out according to General Synthetic Method 5. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 1% aqueous ammonia) and acetonitrile as eluents to give 6-[4-[(2,2-difluoro-1,3-benzodioxol-4-yl)methyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | N1(CCNCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C10H11F3N6
reactant | 2,2-difluoro-1,3-benzodioxole-4-carbaldehyde | FC1(OC2=C(O1)C=CC=C2C=O)F | C8H4F2O3
product | 6-[4-[(2,2-difluoro-1,3-benzodioxol-4-yl)methyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | FC1(OC2=C(O1)C=CC=C2CN2CCN(CC2)C=2C=CC=1N(N2)C(=NN1)C(F)(F)F)F | C18H15F5N6O2
